US04339443
Sodium acetylethylphosphinate
Methyl acetylethylphosphinate (6 g)was reacted with sodium iodide (6.0 g) in ethyl methyl ketone (50 ml) in the same manner as in Example 12. The solution was stirred and refluxed 1.25 hours, cooled and the product filtered off and washed with a little ethyl methyl ketone and dried in vacuo (5.3 g). Decomposes 192°-4°.

reactant | Methyl acetylethylphosphinate | 6 g | C(C)(=O)CCP(OC)=O | C5H11O3P
reactant | sodium iodide | 6.0 g | [I-].[Na+]
solvent | ethyl methyl ketone | 50 ml | CC(=O)CC | C4H8O
product | Sodium acetylethylphosphinate | C(C)(=O)CCP([O-])=O.[Na+] | InChI=1S/C4H9O3P.Na/c1-4(5)2-3-8(6)7;/h8H,2-3H2,1H3,(H,6,7);/q;+1/p-1
